US04337256
1-Amino-2-(2-hydroxymethylphenyl)ethane (10.2 g) was dissolved in 40 ml of pyridine, and with stirring under ice cooling, 25 g of 4-nitrobenzoyl chloride was added gradually. The mixture was stirred at room temperature for 4 hours and then at 50° C. for 1 hour, and poured into ice water. The crystals precipitated were washed in water, dried, and recrystallized from tetrahydrofuran-benzene to afford 24.3 g of 1-(4-nitrobenzoyl)-amino-2-[2-(4-nitrobenzoyloxymethyl)phenyl]ethane having a melting point of 168.2° to 169.7° C.

reactant | 1-Amino-2-(2-hydroxymethylphenyl)ethane | 10.2 g | NCCC1=C(C=CC=C1)CO | C9H13NO
reactant | 4-nitrobenzoyl chloride | 25 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-nitrobenzoyl)-amino-2-[2-(4-nitrobenzoyloxymethyl)phenyl]ethane | 24.3 g | [N+](=O)([O-])C1=CC=C(C(=O)C(CC2=C(C=CC=C2)COC(C2=CC=C(C=C2)[N+](=O)[O-])=O)N)C=C1 | C23H19N3O7
